US04975438
As in Example 115, (E)-5,5-bis(3-fluorophenyl)-2,4-pentadienoic acid (20 g) and 4-nitrophenol (11.2 g) in dichloromethane (250 mL) was treated with 1,3-dicyclohexylcarbodiimide (14.7 g). The mixture was stirred at 0°-5° C. for 60 minutes, then at room temperature for 3 hours. After the usual work up, the ester was crystallized from dichloromethane-hexane to yield 26.1 g of (E)-5,5-bis (3-fluorophenyl)-2,4-pentadienoic acid 4-nitrophenyl ester mp 129°-130° C. Recrystallization of a portion from the same solvents afforded the analytical sample, mp 129.5°-130.5° C. Anal. Calculated for C23H15F2NO4 : C, 67.81; H, 3.71; N, 3.44; F, 9.33 Found: C, 67.81; H, 3.74; N, 3.41; F, 9.37.

reactant | (E)-5,5-bis(3-fluorophenyl)-2,4-pentadienoic acid | 20 g | FC=1C=C(C=CC1)C(=C/C=C/C(=O)O)C1=CC(=CC=C1)F | C17H12F2O2
reactant | 4-nitrophenol | 11.2 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 14.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | (E)-5,5-bis (3-fluorophenyl)-2,4-pentadienoic acid 4-nitrophenyl ester | 26.1 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(C1=CC(=CC=C1)F)C1=CC(=CC=C1)F)=O | C23H15F2NO4
